US07767675B2
Step 3. 2-(2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoylamino)propanoic acid
A mixture of 2-[4-(2-aminopyrimidin-5-yl)-2-fluorobenzoyl]aminopropanoic acid (0.20 g, 0.66 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (0.19 g, 0.79 mmol) in ethanol (4.0 mL) was stirred overnight at 90° C. The mixture was concentrated to afford the crude product. LCMS: (M+H)=496.1.

reactant | 2-[4-(2-aminopyrimidin-5-yl)-2-fluorobenzoyl]aminopropanoic acid | 0.66 mmol, 0.20 g | NC1=NC=C(C=N1)C1=CC(=C(C(=O)NC(C(=O)O)C)C=C1)F | C14H13FN4O3
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.79 mmol, 0.19 g | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | 2-(2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoylamino)propanoic acid | FC1=C(C(=O)NC(C(=O)O)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C28H22FN5O3
